2137-07-13 06:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   The pt is a 58-year-old man with h/o heavy EtOH use who presented to
   the ED with altered mental status. The pt had been drinking 18-20 beers
   nightly for approximately 30 years, then quit "cold [**Country **]" on [**5-27**].
   He was taken to OSH by EMS after his partner called for altered MS.
   [**Name13 (STitle) 664**] CT was NL. He was xfered here
   On arrival to the ED: VS - Temp 98.3F, HR 130, BP 172/100, R 14, O2-sat
   96% 2L. Labs revealed platelets 71, elevated LFTs (45, 104, 99, 3.6),
   lactate 3.4, and ammonia 141. UA was negative, CXR was clear, and Head
   CT showed no acute intracranial process. He was intubated for airway
   protection and admitted to the MICU for further care. Blood and urine
   cultures were sent, and he was given Ceftriaxone 2g, Vancomycin 1g,
   Ampicillin 2g, and Acyclovir 1g given concern for meningitis. He did
   not have an LP [**12-22**] elevated INR 1.5.
 INVASIVE VENTILATION - START [**2137-7-12**] 07:17 PM
   actual start of veentilation in MICU6 was ~ 1830
   Intubated for airway protection for imaging plus elevated ammonia. Will
   extubate today
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2137-7-12**] 08:00 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-7-13**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 75 (69 - 95) bpm
   BP: 126/67(79) {113/66(78) - 161/97(111)} mmHg
   RR: 16 (10 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  1,039 mL
                                                                  1,055 mL
   PO:
             TF:
   IVF:
                                                                    979 mL
                                                                  1,055 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    375 mL
   Urine:
                                                                  1,240 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -201 mL
                                                                    680 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.44/37/160/25/
   Ve: 10.4 L/min
   PaO2 / FiO2: 400
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   53 K/uL
   11.4 g/dL
   131 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.3 mEq/L
   14 mg/dL
   113 mEq/L
   142 mEq/L
   31.7 %
   5.9 K/uL
        [image002.jpg]
                                     pH
                                    7.44
                                    pCO2
                                     37
                                     pO2
                                     160
                                    HCO3
                                     26
                                   BaseXS
                                      1
   Ca: 9.4 Mg: 1.7 P: 3.6
   ALT: 35
   AP: 92
   Tbili: 2.7
   Alb: 2.7
   AST: 56
   LDH: 180
   Dbili:
   TProt
                             [**2137-7-12**]  09:15 PM
                             [**2137-7-13**]  04:15 AM
   WBC
   5.6
   5.9
   Hct
   33.1
   31.7
   Plt
   57
   53
   Cr
   1.0
   1.0
   TropT
   0.02
   Glucose
   154
   131
   Other labs: PT / PTT / INR:16.7/37.6/1.5, CK / CKMB /
   Troponin-T:449/7/0.02, ALT / AST:35/56, Alk Phos / T Bili:92/2.7,
   Amylase / Lipase:45/61, Differential-Neuts:58.3 %, Lymph:31.6 %,
   Mono:6.2 %, Eos:3.4 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL,
   LDH:180 IU/L, Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   58-M w/ h/o heavy EtOH use who presented to the ED today for evaluation
   of [**12-23**] weeks of altered mental status including confusion, slurred
   speech, and unstable gait, in the setting of having recently quit
   drinking EtOH.
   .
   #. Altered mental status - Pt p/w altered mental status x2-3 weeks in
   setting of recently quitting EtOH. Labs on arrival show mild EtOH
   hepatitis w/ other lab e/o chronic liver disease including low albumin,
   elevated INR, low platelets. Pt does not have many physical exam
   findings c/w stigmata of chronic liver disease. Ammonia on arrival 141,
   suggestive of possible hepatic encephalopathy. Wernicke-Korsakoff is
   another possibility, but pt appears well nourished. Infection and CVA
   even less likely
   - follow LFTs, currently downtrending
   - propofol for sedation will also act well against EtOH withdrawal
   - lactulose for hepatic encephalopathy
   - MVI / thiamine / folate given long h/o heavy EtOH use
   - f/[**Location 1698**] read of Head CT
   - hold antibiotics for now as meningitis very unlikely
   - IV PPI [**Hospital1 **]
   .
   #. Resp Failure: intubated for airway protection, will switch over to
   PSV, wean Propafol and plan for extubation
   .
   #. Chronic Liver Disease
   - check RUS US in AM to eval for acities and portal flow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-7-13**] 12:00 AM
   16 Gauge - [**2137-7-13**] 12:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-07-13 09:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with with h/o ETOH abuse.  Quit drinking on [**5-27**].   Had
   some gait difficulty, slurred speech, confusion after that which
   continued.  Was to get MRI but it wasn't done.  Went to [**Hospital3 **] for
   vacation.  Yesterday morning had very poor mental status - [**Hospital 3296**]
   Hospital.  Negative head CT.  in ED BP 170/100, tach.  labs sign for
   plts in 90s, NH4 141.  Intubated to protect airway.   Got treated for
   ?meningitis, but no tap.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2137-7-12**] 07:17 PM
   actual start of veentilation in MICU6 was ~ 1830
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2137-7-12**] 08:00 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-7-13**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 92 (69 - 95) bpm
   BP: 153/80(98) {113/59(75) - 161/97(111)} mmHg
   RR: 24 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  1,039 mL
                                                                  1,249 mL
   PO:
             TF:
   IVF:
                                                                    979 mL
                                                                  1,219 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    625 mL
   Urine:
                                                                  1,240 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -201 mL
                                                                    624 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 16 cmH2O
   Plateau: 11 cmH2O
   SpO2: 100%
   ABG: 7.44/37/160/25/
   Ve: 12.2 L/min
   PaO2 / FiO2: 400
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.4 g/dL
   53 K/uL
   131 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.3 mEq/L
   14 mg/dL
   113 mEq/L
   142 mEq/L
   31.7 %
   5.9 K/uL
        [image002.jpg]
                             [**2137-7-12**]  09:15 PM
                             [**2137-7-13**]  04:15 AM
   WBC
   5.6
   5.9
   Hct
   33.1
   31.7
   Plt
   57
   53
   Cr
   1.0
   1.0
   TropT
   0.02
   Glucose
   154
   131
   Other labs: PT / PTT / INR:16.7/37.6/1.5, CK / CKMB /
   Troponin-T:449/7/0.02, ALT / AST:35/56, Alk Phos / T Bili:92/2.7,
   Amylase / Lipase:45/61, Differential-Neuts:58.3 %, Lymph:31.6 %,
   Mono:6.2 %, Eos:3.4 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL,
   LDH:180 IU/L, Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Delirium/poor MS:  Most likely hepatic encephalopathy.  Reportedly has
   not drunk since [**5-27**], so ETOH withdrawal unlikely.  Continue with
   lactulose.
   doubt meningitis with two weeks of altered MS and no fever.  Also
   consider Wernicke's - tx with thiamine.
   alchoholic hepatitis:  discriminate score about 29.  will ask
   hepatology if they feel treatment is warranted.
   respiratory failure:  will try to extubate once stooling and MS better.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-7-13**] 12:00 AM
   16 Gauge - [**2137-7-13**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2137-07-14 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2137-7-13**] 03:30 PM
 pan cultured, CXR
   Delayed extubation attempt until today
   Increased lactulose; not stooling at this time
   Gave 500 mL NS bolus x 1 as pt is NPO and not receiving maintanence
   fluids.
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2137-7-12**] 08:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-7-13**] 10:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-7-14**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.4
C (99.4
   HR: 93 (74 - 122) bpm
   BP: 142/73(88) {121/59(75) - 165/97(113)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  1,780 mL
                                                                    639 mL
   PO:
             TF:
   IVF:
                                                                  1,490 mL
                                                                    639 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    230 mL
   Urine:
                                                                  1,630 mL
                                                                    230 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    140 mL
                                                                    409 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 680 (600 - 750) mL
   PS : 0 cmH2O
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 16 cmH2O
   Plateau: 11 cmH2O
   SpO2: 99%
   ABG: 7.46/34/130/25/1
   Ve: 11 L/min
   PaO2 / FiO2: 325
   Physical Examination
   Gen: Sedated but appears to respond to stimuli- pain, light
   Labs / Radiology
   54 K/uL
   11.4 g/dL
   128 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.3 mEq/L
   14 mg/dL
   109 mEq/L
   140 mEq/L
   32.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2137-7-12**]  09:15 PM
                             [**2137-7-13**]  04:15 AM
                             [**2137-7-13**]  04:50 PM
                             [**2137-7-14**]  03:38 AM
                             [**2137-7-14**]  04:12 AM
   WBC
   5.6
   5.9
   7.8
   7.1
   Hct
   33.1
   31.7
   33.7
   32.0
   Plt
   57
   53
   51
   54
   Cr
   1.0
   1.0
   1.1
   1.1
   TropT
   0.02
   TCO2
   25
   Glucose
   154
   131
   136
   128
   Other labs: PT / PTT / INR:16.5/37.2/1.5, CK / CKMB /
   Troponin-T:449/7/0.02, ALT / AST:38/65, Alk Phos / T Bili:100/3.9,
   Amylase / Lipase:45/61, Differential-Neuts:58.3 %, Lymph:31.6 %,
   Mono:6.2 %, Eos:3.4 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL,
   LDH:183 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Head CT:
   No acute intracranial process
   Abd u/s:
   - Coarsened hepatic echotexture consistent with cirrhosis. No focal
   liver
   lesions identified on this limited examination.
   - Patent hepatic vasculature.
   - Prior cholecystectomy.
   - Splenomegaly consistent with portal hypertension, but no definite
   intra-
   abdominal ascites.
   Assessment and Plan
   58-M w/ h/o heavy EtOH use who presented to the ED today for evaluation
   of [**12-23**] weeks of altered mental status including confusion, slurred
   speech, and unstable gait, in the setting of having recently quit
   drinking EtOH.
   .
   #. Altered mental status - Pt p/w altered mental status x2-3 weeks in
   setting of recently quitting EtOH. Labs on arrival show mild EtOH
   hepatitis w/ other lab e/o chronic liver disease including low albumin,
   elevated INR, low platelets. Pt does not have many physical exam
   findings c/w stigmata of chronic liver disease. Ammonia on arrival 141,
   suggestive of possible hepatic encephalopathy. Wernicke-Korsakoff is
   another possibility, but pt appears well nourished. Infection and CVA
   even less likely
   - follow LFTs, currently downtrending
   - propofol for sedation will also act well against EtOH withdrawal
   - lactulose for hepatic encephalopathy.  [**Month (only) 60**] need to increase dose to
   reach goal of 3 BMs/day
   - MVI / thiamine / folate given long h/o heavy EtOH use
   - hold antibiotics for now as meningitis very unlikely given > 2wk time
   course
   # Fever: Pan cultured, cxr did not reveal pneumonia.  No clear source.
   Can consider empirically covering but unclear of what to cover.  No
   signs of infiltrate on cxr
   .
   #. Resp Failure: intubated for airway protection, will switch over to
   PSV, wean Propafol and plan for extubation today
   .
   #. Chronic Liver Disease
   -Cirrhosis seen on u/s; ? portal htn.
   # FEN
   -Currently NPO
   -can start tube feeds via NGT following extubation
   -gave 500ml NS bolus overnight.  Once pt starts stooling [**12-22**] lactulose,
   may need to consider more aggressive fluid replacement.
   - Replete lytes prn
   - MVI, thiamine, folate
   # Prophy-
   -Pneumoboots
   -PPI
   # [**Name (NI) 4685**]
   - Girlfriend at bedside for much of day yesterday
   - Attempted to contact pt
s son, but his voicemail box was full.  Pt
   girlfriend [**Name (NI) 420**] the son and gave him the number of the hospital.
   Per girlfriend, she will serve as the contact person.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-7-13**] 12:00 AM
   16 Gauge - [**2137-7-13**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-07-14 10:53:00 Physician Attending Progress Note
Chief Complaint: encephalopathy and altered MS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with h/o ETOH abuse, admitted with confusion, intubated
   24 Hour Events:
 ULTRASOUND - At [**2137-7-13**] 08:33 AM
   abd @bedside
 SPUTUM CULTURE - At [**2137-7-13**] 12:10 PM
 BLOOD CULTURED - At [**2137-7-13**] 04:50 PM
   X1
 URINE CULTURE - At [**2137-7-13**] 06:45 PM
 SPUTUM CULTURE - At [**2137-7-14**] 01:00 AM
 FEVER - 101.6
F - [**2137-7-13**] 03:30 PM
   No stools.  But more awake.
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2137-7-12**] 08:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   folate
   thiamine
   MVI
   pantoprazole
   lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-7-14**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38
C (100.4
   HR: 109 (82 - 122) bpm
   BP: 136/68(84) {122/63(78) - 165/97(113)} mmHg
   RR: 16 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 74 Inch
             Total In:
                                                                  1,780 mL
                                                                    882 mL
   PO:
             TF:
   IVF:
                                                                  1,490 mL
                                                                    732 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    460 mL
   Urine:
                                                                  1,630 mL
                                                                    460 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    140 mL
                                                                    422 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 740 (600 - 750) mL
   PS : 5 cmH2O
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   SpO2: 99%
   ABG: 7.46/34/130/25/1
   Ve: 10.4 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   54 K/uL
   128 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.3 mEq/L
   14 mg/dL
   109 mEq/L
   140 mEq/L
   32.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2137-7-12**]  09:15 PM
                             [**2137-7-13**]  04:15 AM
                             [**2137-7-13**]  04:50 PM
                             [**2137-7-14**]  03:38 AM
                             [**2137-7-14**]  04:12 AM
   WBC
   5.6
   5.9
   7.8
   7.1
   Hct
   33.1
   31.7
   33.7
   32.0
   Plt
   57
   53
   51
   54
   Cr
   1.0
   1.0
   1.1
   1.1
   TropT
   0.02
   TCO2
   25
   Glucose
   154
   131
   136
   128
   Other labs: PT / PTT / INR:16.5/37.2/1.5, CK / CKMB /
   Troponin-T:449/7/0.02, ALT / AST:38/65, Alk Phos / T Bili:100/3.9,
   Amylase / Lipase:45/61, Differential-Neuts:58.3 %, Lymph:31.6 %,
   Mono:6.2 %, Eos:3.4 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL,
   LDH:183 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Confusion/altered mental status:  Continue lactulose, think that this
   is most c/w hepatic encephalopathy.  Still seems confused.
   Fevers:  Unclear source of fever.
   Respiratory failure:  Looks good on [**Last Name (LF) **], [**First Name3 (LF) **] will extubate.
   Cirrhosis:  Hep serologies are pending.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-7-13**] 12:00 AM
   16 Gauge - [**2137-7-13**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill